US08975261B2
5-chloro-2,6-dimethylpyrimidin-4-ol (XX1)
Sodium methoxide (328 mg, 6.08 mmol, 30% solution in MeOH) was added to a stirring suspension of acetamidine hydrochloride (191 mg, 2.03 mmol) and methyl 2-chloro-3-oxobutanoate (500 mg, 3.04 mmol) in MeOH (10.1 mL). The reaction mixture was heated to 80° C. for 3 hours and then cooled to room temperature. With stirring, the reaction was treated with 2N HCl in Et2O (50 mL), and then concentrated in vacuo. The resulting solid was suspended in 1:1 acetone/CH2Cl2, stirred vigorously for 10 mins, and the solids collected by filtration to afford the title compound as a light yellow solid. The isolated product was sufficiently pure to use in the subsequent step without further purification. LRMS m/z (M+H) 159.2 found, 159.0 required.

reactant | Sodium methoxide | 6.08 mmol, 328 mg | C[O-].[Na+]
reactant | acetamidine hydrochloride | 2.03 mmol, 191 mg | Cl.C(C)(=N)N
reactant | methyl 2-chloro-3-oxobutanoate | 3.04 mmol, 500 mg | ClC(C(=O)OC)C(C)=O | C5H7ClO3
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 10.1 mL | CO | CH4O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 5-chloro-2,6-dimethylpyrimidin-4-ol | ClC=1C(=NC(=NC1C)C)O | C6H7ClN2O
